### PR TITLE
feat(Regularized): prove `to_SupRegularized` and `of_Subadditive`

### PR DESCRIPTION
**Pull request by pitmonticone**
This PR adds proofs autoformalised by @Aristotle-Harmonic.

Co-authored-by: Aristotle (Harmonic) <aristotle-harmonic@harmonic.fun>

### CODE REVIEW

File: QuantumInfo/Regularized.lean [hunk 1]
```diff
@@ -120,7 +121,9 @@ variable {fn : ℕ → ℝ} {_lb _ub : ℝ} {hl : ∀ n, _lb ≤ fn n} {hu : ∀
 
 theorem InfRegularized.to_SupRegularized : InfRegularized fn hl hu = -SupRegularized (-fn ·)
     (lb := -_ub) (ub := -_lb) (neg_le_neg_iff.mpr <| hu ·) (neg_le_neg_iff.mpr <| hl ·) := by
-  sorry
+  have liminf_neg : Filter.liminf fn Filter.atTop = -(Filter.limsup (-fn) Filter.atTop) := by
+    simp [Filter.limsup_eq, Filter.liminf_eq, Real.sInf_def]
+  exact Real.ext_cauchy (congrArg Real.cauchy liminf_neg)
```
Comment (jstoobysmith) [inline QuantumInfo/Regularized.lean:129]:
```suggestion
 refine Real.ext_cauchy (congrArg Real.cauchy ?_)
 simp [Filter.limsup_eq, Filter.liminf_eq, Real.sInf_def]
```
Haven't checked, and will leave it to the QuantumInfo folk for a proper review. But this might be shorter.

**Review by jstoobysmith — APPROVED** [review]
I've approved this, as this is no doubt an improvement.

**Review by jstoobysmith — APPROVED** [review]
Approving - and will merge now.
